US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[3-(4-dimethylaminophenyloxy)-propyl]-methylamine
The title compound is prepared from [3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane, N-[3-(4-dimethylaminophenyloxy)-propyl]-methylamine and triethylamine analogously to Example 6.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-[3-(4-dimethylaminophenyloxy)-propyl]-methylamine | CN(C1=CC=C(C=C1)OCCCNC)C | C12H20N2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[3-(4-dimethylaminophenyloxy)-propyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCCOC2=CC=C(C=C2)N(C)C)C)=O)C=C1OC | C27H39N3O4
